US06114358
c) 5-Chloromethylisoxazole-3-carbonyl chloride
120 g (743 mmol) of 5-chloromethylisoxazole-3-carboxylic acid were refluxed together with 500 ml of thionyl chloride and 2 drops of pyridine for 10 h, then concentrated under reduced pressure and subsequently distilled under 20 torr. The product distilled at 125-133° C. to result in 78 g (58% of theory).

reactant | 5-chloromethylisoxazole-3-carboxylic acid | 743 mmol, 120 g | ClCC1=CC(=NO1)C(=O)O | C5H4ClNO3
reactant | thionyl chloride | 500 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
product | 5-Chloromethylisoxazole-3-carbonyl chloride | ClCC1=CC(=NO1)C(=O)Cl | C5H3Cl2NO2
